US07893056B2
To a solution of methyl 3-methyl-3-[(phenylmethyl)amino]butanoate (5.5853 g, 25.24 mmol) in THF (125 mL) was added N,N-diisopropylethylamine (6.6 mL, 37.89 mmol). The solution was cooled to 0° C., and methyl chloro(oxo)acetate (2.55 mL, 27.73 mmol) was added dropwise. The mixture was then allowed to stir and warm to room temperature overnight. The mixture was diluted with EtOAc (200 mL) and washed with 1 N aq. HCl (100 mL), followed by sat. aq. NaHCO3 (100 mL). The organic phase was dried over anhydrous MgSO4, filtered, and concentrated in vacuo. The residue was crystallized from EtOAc—hexanes to give a white solid that was collected by vacuum filtration and washed with hexanes. The resulting methyl 3-methyl-3-[[(methyloxy)(oxo)acetyl](phenylmethyl)amino]butanoate (7.0709 g, 91%) was obtained as a white solid. LCMS: (M+H)+: 308.1.

reactant | methyl 3-methyl-3-[(phenylmethyl)amino]butanoate | 25.24 mmol, 5.5853 g | CC(CC(=O)OC)(C)NCC1=CC=CC=C1 | C13H19NO2
reactant | N,N-diisopropylethylamine | 37.89 mmol, 6.6 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methyl chloro(oxo)acetate | 27.73 mmol, 2.55 mL | ClC(C(=O)OC)=O | C3H3ClO3
solvent | THF | 125 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | methyl 3-methyl-3-[[(methyloxy)(oxo)acetyl](phenylmethyl)amino]butanoate | 7.0709 g, 91% | CC(CC(=O)OC)(C)N(CC1=CC=CC=C1)C(C(=O)OC)=O | C16H21NO5
